US08017611B2
1-bromopyrrolidine-2,5-dione (233 mg) was added to a stirred solution of methyl 2-(2-amino-3-pyridyl)-1,3-benzoxazole-7-carboxylate (335 mg) dissolved in tetrahydrofuran (10 ml) over a period of 5 minutes. The resulting solution was stirred at 25° C. for 2 hours. The solvent was evaporated and the mixture was washed with water and dried over phosphorus pentoxide under reduce pressure to afford a brown solid. The mixture was adsorbed on silica gel with chloroform and methanolic ammonia (7N). The crude product was purified by flash chromatography on silica gel eluting with 0 to 2% methanol in dichloromethane. The solvent was evaporated to dryness to afford methyl 2-(2-amino-5-bromo-3-pyridyl)-1,3-benzoxazole-7-carboxylate (405 mg) as a pale brown solid. NMR Spectrum: (DMSOd6) 3.99 (s, 3H), 7.56 (dd, 1H), 7.85 (bs, 2H), 7.97 (d, 1H), 8.12 (d, 1H), 8.29 (s, 1H), 8.35 (s, 1H); Mass spectrum: M+H+ 348-350.

reactant | 1-bromopyrrolidine-2,5-dione | 233 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methyl 2-(2-amino-3-pyridyl)-1,3-benzoxazole-7-carboxylate | 335 mg | NC1=NC=CC=C1C=1OC2=C(N1)C=CC=C2C(=O)OC | C14H11N3O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | ammonia | 7N | N | H3N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | methyl 2-(2-amino-5-bromo-3-pyridyl)-1,3-benzoxazole-7-carboxylate | 405 mg | NC1=NC=C(C=C1C=1OC2=C(N1)C=CC=C2C(=O)OC)Br | C14H10BrN3O3
